// Generated for: spectre
// Generated on: Dec 21 21:34:13 2022
// Design library name: project_common
// Design cell name: INV_tb
// Design view name: schematic
simulator lang=spectre
global 0
parameters cap_val=500.01a
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_rvt12
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_hvt12
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_lvt12
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_io18
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_io25od33
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_io33
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_nvt12
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_nvt12_bpw
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_nvt18
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_nvt18_bpw
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_nvt25od33
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_nvt25od33_bpw
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_nvt33
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_nvt33_bpw
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_bjt
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_diode
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_65_momcaps
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_ncap12
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_ncap18
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_ncap25
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_ncap33
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_pcap12
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_pcap18
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_pcap25
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_pcap33
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/l65ll_v151.lib.scs" section=tt_ll_res
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_RVT12_V101_RF.lib.scs" section=tt
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_HVT12_V101_RF.lib.scs" section=tt
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_LVT12_V101_RF.lib.scs" section=tt
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_IO18_V101_RF.lib.scs" section=tt
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_IO25_V101_RF.lib.scs" section=tt
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_IO33_V111_RF.lib.scs" section=tt
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_VARMIS12_V111_RF.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_VARMIS18_V111_RF.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_VARMIS25_V121_RF.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_VARMIS33_V111_RF.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_VARDIOP_V101_RF.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/momcaps_array_vp3_rfvcl_V101.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/momcaps_array_vp4_rfvcl_V101.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/momcaps_array_vp5_rfvcl_V101.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65_MIMCAPS_20F_KF_V101_RF.lib.scs" section=tt
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_RNPPO_V101_RF.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_RNNPO_V101_RF.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65LL_RNHR_V101_RF.lib.scs" section=typ
include "/dkits/umc/65nm/lms65ll/pdk_b09pb/umc65ll/../Models/Spectre/L65_pad_rf_V101.lib.scs" section=typ

// Library name: project_common
// Cell name: INV_tb
// View name: schematic
V0 (I 0) vsource type=pulse val0=0 val1=1 period=10n
C0 (O 0) capacitor c=cap_val
V1 (net06 0) vsource dc=1 type=dc
PM0 (O I net06 net06) p_12_llrvt l=60n w=200n sa=1.6e-07 sb=1.6e-07 nf=1 \
        mis_flag=1 sd=0 as=32f ad=32f ps=720n pd=720n sca=76.1905 \
        scb=34.8763m scc=10.5484m m=1 mf=1
NM0 (O I 0 0) n_12_llrvt l=60n w=80n sa=175n sb=175n nf=1 mis_flag=1 sd=0 \
        as=24.8f ad=24.8f ps=690n pd=690n sca=115.942 scb=36.4681m \
        scc=14.1857m m=1 mf=1
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=100n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
